Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: UROLOGY
 
Allergies: 
Hydromorphone / shellfish derived
 
Attending: ___.
 
Chief Complaint:
Renal Mass, Hypotension, Shortness of breath, chronic pulmonary 
obstructive disease
 
Major Surgical or Invasive Procedure:
___:  Robot-assisted laparoscopic left partial 
nephrectomy.
___:  PICC placement 
___:  US guided right sided thoracentesis 

 
History of Present Illness:
___ yo F w/ DM2 and COPD who presented for planned left partial 
nephrectomy, then transferred to ICU post op d/t hypotension and 
respiratory distress.

Found to have an incidental left 3.2 cm complex renal cyst on CT 
abdomen (done to further investigate a right-sided abdominal 
hernia). In ___ Had an MRI that should an unchanged mass, and 
CT in ___ showed unchanged left renal mass along with a 
fusiform infrarenal AAA 3 cm. In ___, she had an ultrasound, 
which showed the renal mass at 3.3cm with question of possible 
new extension into the renal sinus fat and by ___ CT scan 
showed the left renal mass slightly enlarged at 3.5cm, which was 
suspicious for the possibility of renal cell carcinoma.  

On day of ICU arrival, she underwent a previously-scheduled, 
uncomplicated left robotic-assisted partial nephrectomy, though 
required pressor support with neo during the operation, thought 
secondary to anesthesia (does have history of hypotension with 
anesthesia in the past). Estimated blood loss was 125cc. She 
received 1750cc LR with UOP 150cc. However, there was difficulty 
in weaning the neo as her SBP would dip down to ___ off of 
it, from ___ on it. She was given a 500cc bolus and started 
on 150cc/hr IVF. It was felt that her respiratory status was 
stable, but per report her O2 sats were noted to go down to the 
___ on 4L when sleeping. During the procedure, she received 1mg 
midazolam, 100mg propofol, 4mg IV morphine, 100mcg fentanyl and 
2g cefazolin.

On arrival to the FICU, pt is somnolent but easily arousable and 
oriented. She is having slight discomfort at her left side where 
the incision is. Otherwise, denies chest pain or difficulty 
breathing. Additionally, she is complaining of peripheral 
neuropathy pain at bilateral feet R > L from the ankles down 
with heaviness of her feet.  

Of note, she had an admission in ___, during which she had a 
laminectomy and on POD#4, was noted to have SBPs in 70-90s 
without tachycardia. It was thought that her hypotension was 
likely related mostly to narcotics and she received narcan x1 
with good effect. She had a brief stay in teh MICU and BPs 
normalized, though it is unclear if pressors were needed. 

 
Past Medical History:
1. DM2 with peripheral neuropathy  
2. Osteoporosis s/p hip and pelvic fracture  
3. Complex L renal cyst (stable on ___ - ___ year f/u  
urology/CT)  
4. Spinal stenosis  
5. Hyperlipidemia  
6. COPD s/p Prior tobacco abuse - not current  
7. Trigeminal neuralgia  
8. Depression/anxiety  
9. Weight Loss  
10. Peripheral neuropathy  
11. Adrenal Adenoma (1.8 x 1.9 cm on MRI ___  
12. Abdominal aortic aneurysm (~3 cm) - f/u U/S ___ ___.  
___  
13. Peripheral arterial disease (55-90% stenosis of R iliac  
artery with moderately reduced ABI)  
14. Appendectomy  
15. C-section x 2  
 
Social History:
___
Family History:
Daughter had ___ at age ___, cervical cancer and underwent 
prophylactic bilateral mastectomy. Otherwise, negative for DM, 
HTN. 

 
Physical Exam:
ICU ARRIVAL:
Tmax: 36.5 C (97.7 F) Tcurrent: 36.5 C (97.7 F) HR: 62 (58 - 
63) bpm
BP: 109/43(61) {85/43(58) - 111/67(72)} mmHg RR: 14 (13 - 18) 
insp/min SpO2:94% 
General: NAD, alert and oriented. Somnolent at times, but easily 
arousable. 
HEENT:   Mucous membs dry, pupils small but equal and reactive.
Neck: JVP non elevated, no LAD. 
CV:  Regular Rate and Rhythm, crescendo murmur best heart at 
RUSB. 
Lungs: Bibasilar expiratory rhonchi, otherwise clear. 
Abdomen: Soft, nontender, nondistended. normoactive bowel 
sounds. JP drain in place with small amount of bloody fluid. 
Incision with dried blood, not actively oozing. 
GU: foley present
Ext:  Warm lower legs, cool feet, 1+ bilateral DP pulses

Discharge physical exam: 
WdWn, female,NAD, AVSS on nasal canula supplemental oxygen 
support
Interactive, cooperative, articulate
Abdomen soft, appropriately tender along incisions
Extremities w/out edema or pitting and there is no reported calf 
pain to deep palpation
Urine color is yellow
 
Pertinent Results:
ARRIVAL TO ICU:
___ at 15:55
WBC 11.6 Hgb 11.9 HCT 36.6 Plt 160
___ at 22:00
WBC 10.5 Hgb 11.4 HCT 33.8 Plt 194
___ 10.8/1.0Gluc 230 BUN 14 Cr 0.7 Na 138 K 4.3 Cl 104 HCO 28 
 Ca 8.1 Ph 4.1 Mg 2.1

IMAGING:
___ US INTRA-OP ___ MINS: Intra-operative guidance was 
provided for localization of the approximately 2.5 x 3.5 cm 
solid mass left kidney lateral aspect, having an exophytic 
component.  The lesion does not extend to the hilum.  Ultrasound 
helped confirm the margins of the tumor.  Service time was 30 
minutes. 

CT CHEST:
CONCLUSION: 
  
1.  Diffuse upper lung predominant interstitial opacities around 
severe 
emphysema are accompanied by new moderate bilateral pleural 
effusions.  The simplest explanation for those opacities would 
be interstitial cardiogenic or noncardiogenic pulmonary edema 
rather than infection.  Drug reaction is also a possibility. 
2.  Reactive central lymph nodes. 
3.  Significant dependant and passive lower lobe atelectasis. 

EKG: NSR, NA/NI. Flattened T waves in aVL, V2 but otherwise no 
ST changes or TWI. 

MICRO:
___ 12:01 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Illumigene DNA
      amplification assay. 
           (Reference Range-Negative). 

___ 6:05 pm PLEURAL FLUID      PLEURAL FLUID. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Final ___: 
      NO GROWTH AS OF ___. 
      DUE TO LABORATORY ERROR, UNABLE TO CONTINUE PROCESSING. 
      ANAEROBES ARE SCREENED FOR IN THE FLUID CULTURE. 
      TEST CANCELLED, PATIENT CREDITED. 

Time Taken Not Noted     Log-In Date/Time: ___ 2:26 pm
      URINE      ADD ON FROM ___ ,ADDED URI UCU @ 14:26PM. 


                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

___ 2:30 pm BLOOD CULTURE      Source: Line-PICC. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 9:02 pm SPUTUM      Source: Endotracheal. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      ___ PMNs and <10 epithelial cells/100X field. 
      NO MICROORGANISMS SEEN. 

   RESPIRATORY CULTURE (Final ___:    NO GROWTH. 

___ 9:39 am URINE      Source: Catheter. 

                            **FINAL REPORT ___

   Legionella Urinary Antigen  (Final ___: 
      NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN. 
           (Reference Range-Negative). 
      Performed by Immunochromogenic assay. 
      A negative result does not rule out infection due to other 
L.
      pneumophila serogroups of antigen in urine may vary. 
PATH:
___ Left kidney tumor pathology:

NameBirthdate   Age   SexPathology #    ___ MRN#
___      ___   ___     
___
Report to: ___. ___ by: ___. ___
 
SPECIMEN SUBMITTED: Left Kidney Tumor.

Procedure date    Tissue received    Report Date   Diagnosed 
by
___. ___/ttl
 
DIAGNOSIS: 
 
Kidney, left, partial robotic laparoscopic nephrectomy (A-E):
Oncocytic papillary renal cell carcinoma, see synoptic report.

LABS:
___ 03:55PM BLOOD WBC-11.6* RBC-3.79* Hgb-11.9* Hct-36.6 
MCV-97 MCH-31.4 MCHC-32.5 RDW-13.1 Plt ___
___ 10:00PM BLOOD WBC-10.5 RBC-3.45* Hgb-11.4* Hct-33.8* 
MCV-98 MCH-33.0* MCHC-33.7 RDW-13.1 Plt ___
___ 06:25AM BLOOD WBC-8.7 RBC-3.07* Hgb-9.9* Hct-29.7* 
MCV-97 MCH-32.3* MCHC-33.4 RDW-13.1 Plt ___
___ 05:41AM BLOOD WBC-9.2 RBC-2.89* Hgb-9.3* Hct-28.3* 
MCV-98 MCH-32.1* MCHC-32.8 RDW-13.1 Plt ___
___ 04:28AM BLOOD ___ PTT-35.4 ___
___ 06:25AM BLOOD Glucose-150* UreaN-12 Creat-0.8 Na-141 
K-3.5 Cl-96 HCO3-39* AnGap-10
___ 05:41AM BLOOD Glucose-242* UreaN-12 Creat-0.6 Na-136 
K-4.0 Cl-95* HCO3-36* AnGap-9
___ 01:26PM BLOOD Glucose-188* UreaN-11 Creat-0.6 Na-133 
K-4.0 Cl-103 HCO3-23 AnGap-11
___ 10:00PM BLOOD Glucose-230* UreaN-14 Creat-0.7 Na-138 
K-4.3 Cl-104 HCO3-28 AnGap-10
___ 01:26PM BLOOD ALT-26 AST-45* LD(LDH)-447* AlkPhos-43 
TotBili-0.3
___ 04:30AM BLOOD LD(LDH)-315*
___ 06:25AM BLOOD Calcium-8.5 Phos-4.0 Mg-2.0
 
Brief Hospital Course:
Ms. ___ was admitted to Urology after undergoing 
laparoscopic LEFT partial nephrectomy. No concerning 
intra-operative events occurred; please see dictated operative 
note for details.  The patient received perioperative antibiotic 
prophylaxis. 

FICU COURSE:
Post Urologic surgery patient transferred to FICU d/t 
hypotension and requirement for pressors. Patient was on Neo, 
which was quickly weaned in <24 hours. Etiology likely d/t 
significant sensitivity to opioids and anesthesia (as documented 
on prior admissions). We avoided all opioids for remainder of 
her stay, instead used Tramadol and Toradol for pain control.  
Subsequently, while in the ___ patient developed worsening 
hypoxemic, hypercarbic respiratory distress. She has a long COPD 
history with long smoking history. Initialy CXR's suggested both 
volume overload and RUL + LLL infiltrates so patient was started 
on HCAP coverage and aggressive diuresis. Patient was maintained 
net negative daily, at least 1L with prn IV Lasix. CXR and 
respiratory status continued to worsen and ARDS was suspected so 
pt was eventually intubated. Pt was further diuresed during 
intubation, then extubated in about 18 hours. Post extubation 
patient's respiratory status was tenuous so a CT Chest was 
checked that should significant b/l Pleural Effusions. She had a 
right sided thoracentesis with significant improvement in her 
respiratory status. Fluid was transudative, most likely from 
___ exacerbation in a COPD patient, likely causing perfusion to 
poorly ventilated zones. She was further diuresed and prior to 
floor transfer she was on 3L NC with SaO2 93-95% and 
comfortable. 

POST FICU:  Ms. ___ transferred to the general surgical 
floor on POD8 where she remained without incident until 
discharge on POD10.  An ultrasound was obtained to rule out 
right upper extremity thrombosis (given some increased right arm 
edema), antibiotics were discontinued and her foley removed.  
The remainder of the hospital course was relatively 
unremarkable. The patient was discharged in stable condition, 
eating well, ambulating independently, voiding without 
difficulty, and with pain control on oral analgesics. On exam, 
incision was clean, dry, and intact, with no evidence of 
hematoma collection or infection. The patient was given explicit 
instructions to follow-up in clinic in approximately four weeks 
time for ___ evaluation with Dr. ___ 
back to her PCP for routine ___ evaluation and set-up 
with pulmonary for ongoing work-up of her CPOD and requirement 
of supplemental oxygen. She was discharged home with visiting 
nurse services, home oxygen services and home physical therapy. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Simvastatin 20 mg PO DAILY 
2. Vitamin D 800 UNIT PO DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. traZODONE 50 mg PO HS 
5. Aspirin 81 mg PO DAILY 
6. Calcium Carbonate 600 mg PO DAILY 
7. fish oil-dha-epa *NF* ___ mg Oral daily 
8. Glargine 8 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
9. Gabapentin 1200 mg PO TID 
10. Acetaminophen 1000 mg PO Q8H 
11. Restasis *NF* (cycloSPORINE) 0.05 % ___ 
12. Fluoxetine 40 mg PO DAILY 

 
Discharge Medications:
1. Calcium Carbonate 600 mg PO DAILY 
2. Gabapentin 1200 mg PO TID 
3. Multivitamins 1 TAB PO DAILY 
4. Vitamin D 800 UNIT PO DAILY 
5. Simvastatin 20 mg PO DAILY 
6. TraZODone 50 mg PO HS 
7. SUPPLEMENTAL HOME OXYGEN
2 Litres supplemental oxygen via nasal canula, intermittent 
pulse dosing
8. oxygen
___ via NC continuous pulse dose for portability.

DX: COPD
RA sat 87-88%
9. Fluoxetine 40 mg PO DAILY 
10. Glargine 8 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
11. Ipratropium Bromide Neb 1 NEB IH Q6H 
RX *ipratropium bromide 0.2 mg/mL  (0.02 %) 0.5 (One half) mg 
inhaled every six (6) hours Disp #*30 Each Refills:*0
12. Restasis *NF* (cycloSPORINE) 0.05 % ___ 
13. fish oil-dha-epa *NF* ___ mg Oral daily 
14. Aspirin 81 mg PO DAILY 
15. Acetaminophen 1000 mg PO Q8H 
16. TraMADOL (Ultram) 50 mg PO Q4H:PRN pain 
RX *tramadol 50 mg 1 tablet(s) by mouth q4-6h Disp #*30 Tablet 
Refills:*0
17. Albuterol 0.083% Neb Soln 1 NEB IH Q6H 
RX *albuterol sulfate 2.5 mg/3 mL (0.083 %) 2.5mg neb inh every 
six (6) hours Disp #*30 Each Refills:*0
18. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0
19. nebulizer machine

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
RENAL CELL CARCINOMA (Oncocytic papillary)
PNEUMONIA
BILATERAL PLEURAL EFFUSION, RIGHT > LEFT
CHRONIC PULMONARY OBSTRUCTIVE DISEASE

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
-Please also refer to the provided written instructions on 
___ care, instructions and expectations made 
available from Dr. ___ office.

-Resume your pre-admission/home medications except as noted. 
ALWAYS call to inform, review and discuss any medication changes 
and your ___ course with your primary care doctor.

-___ reduce the strain/pressure on your abdomen and incision 
sites; remember to log roll onto your side and then use your 
hands to push yourself upright while taking advantage of the 
momentum of putting your legs/feet to the ground.

--There may be bandage strips called steristrips which have 
been applied to reinforce wound closure.  Allow these bandage 
strips to fall off on their own over time but PLEASE REMOVE ANY 
REMAINING GAUZE DRESSINGS WITHIN 2 DAYS OF DISCHARGE. You may 
get the steristrips wet.

-Please AVOID aspirin or aspirin containing products and 
supplements that may have blood-thinning effects (like Fish 
Oil, Vitamin E, etc.) unless you have otherwise been advised.

-IBUPROFEN (the ingredient of Advil, Motrin, etc.) may be taken 
even though you may also be taking Tylenol/Acetaminophen. You 
may alternate these medications for pain control.  For pain 
control, try TYLENOL FIRST, then ibuprofen, and then take the 
narcotic pain medication as prescribed if additional pain relief 
is needed.

-Ibuprofen should always be taken with food. Please discontinue 
taking and notify your doctor should you develop blood in your 
stool (dark, tarry stools)

-Call your Urologist's office to schedule/confirm your follow-up 
appointment in 4 weeks AND if you have any questions.

-Please call your primary care physician, ___, 
pulmonology clinic for a follow up appointment. 

-Do not eat constipating foods for ___ weeks, drink plenty of 
fluids to keep hydrated

-No vigorous physical activity or sports for 4 weeks or until 
otherwise advised. Light household chores/activity and leisurely 
walking/activity is OK and should be continued. Do NOT be a 
couch potato

-Tylenol should be your first-line pain medication. A narcotic 
pain medication has been prescribed for breakthrough pain ___. 
REPLACE the Tylenol with this narcotic pain medication if 
additional pain control is needed.

-Max daily Tylenol (acetaminophen) dose is 4 grams from ALL 
sources, note that narcotic pain medication also contains 
Tylenol

-Do not lift anything heavier than a phone book (10 pounds) or 
drive until you are seen by your Urologist in follow-up 

-You may shower normally but do NOT immerse your incisions or 
bathe

-Do not drive or drink alcohol while taking narcotics and do not 
operate dangerous machinery

-Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication. 
Discontinue if loose stool or diarrhea develops. Colace is a 
stool-softener, NOT a laxative

-If you have fevers > 101.5 F, vomiting, or increased redness, 
swelling, or discharge from your incision, call your doctor or 
go to the nearest emergency room.

- You will be sent home on home supplemental oxygen.
 
Followup Instructions:
___